US08350044B2
Preparation of 2-[(pyridine-3-carbonyl)-amino]-propionic acid methyl ester
(±)-Alanine methyl ester hydrochloride salt (35.2 g, 280 mmol) and Et3N (58.5 mL, 420 mmol) were sequentially added to a stirred solution of nicotinoyl chloride (19.8 g, 140 mmol) in acetonitrile (800 mL) and stirred at ambient temperature for 10 min and then 80° C. for 2 h. The reaction mixture was poured into a separatory funnel containing brine and ethyl acetate. The biphasic mixture was separated, and the organic layer was washed one time with brine, dried over MgSO4, filtered and concentrated to dryness. The crude product was triturated in 80% ethyl acetate/hexanes overnight at ambient temperature. The solids were removed by filtration over Celite® and the filtrate was concentrated in vacuo to give the desired product as a clear brown oil (20 g, 69%): 1H NMR (300 MHz, CDCl3) δ 9.04 (d, J=2.2 Hz, 1H), 8.75 (dd, J=4.9, 1.4 Hz, 1H), 8.13 (dt, J=7.7, 1.9 Hz, 1H), 7.40 (dd, J=8.0, 4.9 Hz, 1H), 6.92 (br s, 1H), 4.82 (m, 1H), 3.81 (s, 3H), 1.55 (d, J=7.1 Hz, 3H); ESIMS m/z 209 (M+1), m/z 207 (M-1).

reactant | (±)-Alanine methyl ester hydrochloride salt | 280 mmol, 35.2 g | Cl.COC([C@@H](N)C)=O
reactant | Et3N | 420 mmol, 58.5 mL | CCN(CC)CC | C6H15N
reactant | nicotinoyl chloride | 140 mmol, 19.8 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 2-[(pyridine-3-carbonyl)-amino]-propionic acid methyl ester | 20 g, 69% | COC(C(C)NC(=O)C=1C=NC=CC1)=O | C10H12N2O3
